US05360802
Step 2: 3-Acetoxy-6-(3-aminophenyl)-4-pyrone
3-Acetoxy-6-(3-nitrophenyl)-4-pyrone (1.80 g, 6.5 mmol) was dissolved in methanol (50 ml) and hydrogenated at 10 psi for 1 h, using 10% palladium on carbon catalyst (0.2 g, 11% (w/w)). The reaction mixture was then filtered through "hyflo" and the filtrate evaporated in vacuo. The residue was recrystallised from ethyl acetate:hexane (2:1) to afford the desired product (1.20 g, 75%) as a beige solid. mp 127°-129° C. 1H NMR (360 MHz, CDCl3) δ 2.35 (3H, s), 3.85 (2H, brs), 6.81 (1H, dd, J=8.0 and 1.0 Hz), 6.84 (1H, s), 7.02 (1H, dd, J=1.0 and 1.0 Hz), 7.11 (1H, brd, J=8.0 Hz), 7.25 (1H, dd, J=8.0 and 8.0 Hz), 7.98 (1H, s).

reactant | 3-Acetoxy-6-(3-nitrophenyl)-4-pyrone | 6.5 mmol, 1.80 g | C(C)(=O)OC1=COC(=CC1=O)C1=CC(=CC=C1)[N+](=O)[O-] | C13H9NO6
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 3-Acetoxy-6-(3-aminophenyl)-4-pyrone | 1.20 g, 75% | C(C)(=O)OC1=COC(=CC1=O)C1=CC(=CC=C1)N | C13H11NO4
